US03937837
7-Hydroxy-4-oxo-2-methyl-4H-1-benzopyran-3-carbonitrile.
A slurry of 7.3 g of 7-acetoxy-4-oxo-2-methyl-4H-1-benzopyran-3-carbonitrile in 45 ml of methanol was treated with 75 ml of 1N sodium hydroxide solution. The mixture was stirred for 5 minutes, cooled in ice and acidified with 4N HCl. The solid was filtered and recrystallized from methanol, mp > 300° C.

reactant | 7-acetoxy-4-oxo-2-methyl-4H-1-benzopyran-3-carbonitrile | 7.3 g | C(C)(=O)OC1=CC2=C(C(C(=C(O2)C)C#N)=O)C=C1 | C13H9NO4
reactant | sodium hydroxide | 1N, 75 ml | [OH-].[Na+]
reactant | HCl | 4N | Cl | ClH
solvent | methanol | 45 ml | CO | CH4O
product | 7-Hydroxy-4-oxo-2-methyl-4H-1-benzopyran-3-carbonitrile | OC1=CC2=C(C(C(=C(O2)C)C#N)=O)C=C1 | C11H7NO3
